US05559111
a) 3-Amino-1-(ethylsulfonyl)-propane
1.0 g of 3-aminopropyl-ethyl sulfide is placed in 35 ml of methanol at 0° C.; 15.5 g of oxone in 35 ml of water are added and the mixture is stirred at 0° C. for 4 hours. 200 ml of water are added and the mixture is extracted with 3 x 150 ml of dichloromethane. The organic extracts are concentrated by evaporation and purified by FC (10 g of silica gel, ethyl acetate/methanol/conc. ammonia=80: 15:5). The title compound is obtained: Rf (ethyl acetate/methanol/conc. ammonia=80: 15:5)=0.15.

reactant | 3-aminopropyl-ethyl sulfide | 1.0 g | NCCCSCC | C5H13NS
reactant | oxone | 15.5 g | OOS(=O)[O-].[K+]
reactant | water | 35 ml | O | H2O
reactant | water | 200 ml | O | H2O
solvent | methanol | 35 ml | CO | CH4O
product | 3-Amino-1-(ethylsulfonyl)-propane | NCCCS(=O)(=O)CC | C5H13NO2S
